*****************************************************************
* NXP PSMN3R9-25MLC
*
* Polarity N-Channel
* Ratings 25V/4.150000E-003OHMS/70A
*
* Date Created Tue Jun 12 05:37:53 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R9-25MLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.4e-10
RLS2 SOURCE 8 0.854513201776424
RLS1 8 7 0.00029

RDS 7 4 25000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00276288719159276 TC=0.00529340788672136,1.38619547108567E-06
RBD 9 4 0.00142689803649871 TC=0.00529340788672136,1.38619547108567E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.22353678627684e-09
RG 1 2 1.76847376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -15	658.5
+ -12	658.021
+ -10	657.465
+ -8	656.732
+ -6	655.234
+ -5	653.675
+ -4	650.1
+ -3	636.835
+ -2	901.975
+ -1	642.628
+ -0.5	516.541
+ -0.2	452.191
+ -0.1	415.704
+ 0	230.8865
+ 0.1	462.889
+ 0.2	404.356
+ 0.5	342.861
+ 1	280.311
+ 2	222.154
+ 3	195.304
+ 4	178.21
+ 5	166.22
+ 6	157.36
+ 8	144.337
+ 10	135.809
+ 12	129.823
+ 12.5	128.497
+ 15	123.471
+ 20	116.733



.MODEL MINT NMOS(Vto=2.28531629480014 Kp=2.206454e+002 Nfs=460000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=27.5 Ibv=2.500000E-004 Rs=1E-6 Is=9.44969006140451e-13
+ N=1 M=0.690000000000001 VJ=0.97 Fc=0.5 Cjo=1.491373e-09 Tt=1.752268e-08)

.ENDS

